US04173640
E. 2-[2-(1,2,3,4,5,8-Hexahydro-3-hydroxynaphthalenyl)ethyl]-1-methylpiperidine
Following the procedure of Example 6, part D, but substituting the 2-[2-(3-hydroxy-1,2,3,4-tetrahydronaphthalenyl)ethyl]-1-methylpiperidine for the 3-(3,4-dihydroxy-1,2,3,4-tetrahydro-2-naphthalenyl)-1-methylpyrrolidine, the title E compound is obtained.

reactant | 2-[2-(3-hydroxy-1,2,3,4-tetrahydronaphthalenyl)ethyl]-1-methylpiperidine | OC1CC(C2=CC=CC=C2C1)CCC1N(CCCC1)C | C18H27NO
reactant | 3-(3,4-dihydroxy-1,2,3,4-tetrahydro-2-naphthalenyl)-1-methylpyrrolidine | OC1C(CC2=CC=CC=C2C1O)C1CN(CC1)C | C15H21NO2
product | 2-[2-(1,2,3,4,5,8-Hexahydro-3-hydroxynaphthalenyl)ethyl]-1-methylpiperidine | OC1CC(C=2CC=CCC2C1)CCC1N(CCCC1)C | C18H29NO
